US07157577B2
To a suspension of 10 g of 3-(4-oxo-4,5,6,7,tetrahydro-1H-indol-3-yl-propionic acid (48 mmol) in 60 mL of dichloromethane was added 9.3 g (57.6 mmol) of carbonyldiimidazole. After stirring at room temperature for 2 hours, 12 mL (144 mmol) of pyrrolidine was added. The dark red reaction mixture was then stirred at room temperature overnight. The reaction was poured into water and the organic layer washed with brine, dried and concentrated to give 3-(3-oxo-3-pyrrolidin-1-yl-propyl)-1,5,6,7-tetrahydro-indol-4-one (12 g, 96% yield). 1H-NMR (300 MHz, dimethylsulfoxide-d6) δ 11.05 (br s, 1H, NH), 6.46 (d, 1H), 3.35 (m, 2H, CH2), 2.24 (m, 2H, CH2), 2.66–2.73 (m, 4H, 2×CH2), 2.44 (m, 2H, CH2), 2.26 (m, 2H, CH2), 1.96 (m, 2H, CH2), 1.82 (m, 2H, CH2), 1.73 (m, 2H, CH2). MS m/z 260 [M+].

reactant | 4-oxo-4,5,6,7,tetrahydro-1H-indol-3-yl-propionic acid | 48 mmol | O=C1C=2C(=CNC2CCC1)C(C(=O)O)C | C11H13NO3
reactant | carbonyldiimidazole | 57.6 mmol, 9.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyrrolidine | 144 mmol, 12 mL | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 3-(3-oxo-3-pyrrolidin-1-yl-propyl)-1,5,6,7-tetrahydro-indol-4-one | 12 g, 96% yield | O=C(CCC1=CNC=2CCCC(C12)=O)N1CCCC1 | C15H20N2O2
